* AD8610 SPICE Macro-model      Rev B;  11/03, TRW, ADI
* SB, ADSiV apps 
                                            
* This model simulates typical value parameters
* Vs=±13V at T=25°C
*
* Copyright by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD8610   1 2 99 50 30
*
* INPUT STAGE
*
R3   5  50  1.464E3
R4   6  50  1.464E3
CIN  1   2    5.5E-12
I1   99  4    2.733E-3
IOS  1   2    1.75E-12
EOS  60  1    POLY(2)  (17, 24) (73, 98)  45E-6  1 1 
V10   4     55 DC 4
D10  55   99 DX
EN 7 60 42 N000 1
GN1 N000 1 45 N000 1E-6
GN2 N000 2 48 N000 1E-6
J1   5   2    4   JX
J2   6   7    4   JX
GB1  2  50    POLY(3) (4, 2) (5, 2) (50, 2) 0 1E-12 1E-12 1E-12
GB2  7  50    POLY(3) (4, 7) (6, 7) (50, 7) 0 1E-12 1E-12 1E-12
*
EREF 98 N000 24 N000 1
*
* VOLTAGE NOISE GENERATOR
*
VN1 41 N000 DC 2
DN1  41 42    DEN
DN2  42 43    DEN
VN2 N000 43 DC 2
*
* CURRENT NOISE GENERATOR
*
VN3 44 N000 DC 2
DN3  44 45    DIN
DN4  45 46    DIN
VN4 N000 46 DC 2
*
* CURRENT NOISE GENERATOR
*
VN5 47 N000 DC 2
DN5  47 48    DIN
DN6  48 49    DIN
VN6 N000 49 DC 2
*  
* SECOND STAGE & POLE AT 135 Hz
*
R5   9  98   4.72E4
C3   9  98   25E-9
G1   98  9    5  6 3.31E-1
V2   99  8    2
V3   10 50    2
D1   9   8    DX
D2   10  9    DX
*

* COMMON-MODE GAIN NETWORK WITH ZERO AT 300 Hz
*
R11  16 17     1E6
C8   16 17     5.318E-10
R12  17 98     1
E3   16 98     POLY(2) 1 98 2 98 0 1.581 1.581

* PSRR WITH ZERO AT 500Hz
*
EPSY 72 98 POLY(1) (99,50) 0 1
CPS3 72 73 1E-9
RPS3 72 73 316.2E+3
RPS4 73 98 1
*
*
* POLE AT 55 MHZ
*
R13  18 98     1E3
C9   18 98  2.9E-12
G5   98 18     9  24  1E-3
*
* OUTPUT STAGE
*
R14  24 99     500E3
R15  24 50     500E3
CF 24 N000 1E-6
ISY  99 50     -5.8E-3
R16  29 99     110
R17  29 50     110
L1   29 30     1E-8
G6   27 50     18 29  9.09E-3
G7   28 50     29 18  9.09E-3
G8   29 99     99 18  9.09E-3
G9   50 29     18 50  9.09E-3
V4   25 29     0.675
V5   29 26     0.675
D3   18 25     DX
D4   26 18     DX
D5   99 27     DX
D6   99 28     DX
D7   50 27     DY
D8   50 28     DY
F1 29 N000 V4 1
F2 N000 29 V5 1
*
* MODELS USED
*
.MODEL JX PJF(BETA=1.4E-2 VTO=-1.000  IS=20E-12 RD=0
+ RS=0 CGD=1E-12 CGS=1E-12)
.MODEL DX   D(IS=1E-15 RS=0 CJO=1E-12)
.MODEL DY   D(IS=1E-15 BV=50 RS=10 CJO=1E-12)
.MODEL DEN  D(IS=1E-12 RS=10000, KF=2.651E-15 AF=1)
.MODEL DIN  D(IS=1E-12 RS=12, KF=0 AF=1)
.ENDS AD8610
*$
=12, KF=0 AF=1)
.ENDS AD8610
*$
